US07485634B2
Preparation of N-Methyl 3-(4-fluorobenzoyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carbamide
The title compound was prepared in a manner similar to that described in Example 2A by using N-methyl 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carbamide and 4-fluorobenzoyl chloride; 1H-NMR (CDCl3): δ 9.49 (1H, br s), 7.35 (3H, m), 7.24 (1H, m), 7.14 (4H, m), 4.30 (2H, m), 4.19 (1H, m), 3.69 (2H, m), 3.07 (1H, m), 2.91 (1H, m), 2.78 (3H, br s); MS (ES): 366.2 (MH+).

reactant | N-methyl 1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carbamide | CNC(=O)C1CNCCC2=C1NC=1C=CC=CC21 | C14H17N3O
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | N-Methyl 3-(4-fluorobenzoyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole-5-carbamide | CNC(=O)C1CN(CCC2=C1NC=1C=CC=CC21)C(C2=CC=C(C=C2)F)=O | C21H20FN3O2
